US07166599B2
2-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl-amino)-4-methylamino-5-nitro-pyrimidine
650 mg of 2-(3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl-amino)-4-methylamino-5-nitro-pyrimidine, 20 ml tetrahydrofuran, 10 ml water and 3.2 ml of 1N sodium hydroxide solution are stirred for 2 hours at ambient temperature and then the reaction mixture is combined with 100 ml of water. The solid precipitated is suction filtered and dried.

reactant | 2-(3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl-amino)-4-methylamino-5-nitro-pyrimidine | 650 mg | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NC=C(C(=N2)NC)[N+](=O)[O-])(F)F | C17H17F3N6O3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 3.2 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl-amino)-4-methylamino-5-nitro-pyrimidine | C1CNCCC2=C1C=CC(=C2)NC2=NC=C(C(=N2)NC)[N+](=O)[O-] | C15H18N6O2
